US05246960
M)a) 15.4 g of a diastereomer mixture of 2-hexyl-3-hydroxy-(R)-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoic acid were dissolved in 160 ml of ethanol and 800 mg of toluene-4-sulfonic acid monohydrate were added. The reaction mixture was heated to 55°-60° C. until the reaction was finished. The solvent was removed in vacuo and the residue was dissolved in 160 ml of dichloromethane. The solution was stirred at room temperature for 1 hour. The reaction mixture was evaporated. The material obtained was chromatographed on silica gel. There was obtained tetrahydro-3-hydroxy-(R)-6-undecyl-2H-pyran-2-one, m.p. 95°-96° C.

reactant | 2-hexyl-3-hydroxy-(R)-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoic acid | C(CCCCC)[C@@H](C(=O)O)C(CC(CCCCCCCCCCC)OC1OCCCC1)O | C27H52O5
reactant | toluene-4-sulfonic acid monohydrate | 800 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | tetrahydro-3-hydroxy-(R)-6-undecyl-2H-pyran-2-one | O[C@H]1C(OC(CC1)CCCCCCCCCCC)=O | C16H30O3
